US04596816
Phosphorous oxychloride (5.58 ml) was added to a solution of 1-hexanoylamino-1-phenyl-2-propanone (4.94 g) in toluene (50 ml) and the solution was refluxed with stirring for 40 minutes. The solvent was distilled off and water was added to the residue. The mixture was neutralized with potassium carbonate and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was purified by silica gel chromatography [silice gel: 80 g; eluent: hexane-ethyl ether (4:1)] to give an oil of 5-methyl-2-pentyl-4-phenyloxazole, yield 4.25 g (92.8%).

reactant | Phosphorous oxychloride | 5.58 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1-hexanoylamino-1-phenyl-2-propanone | 4.94 g | C(CCCCC)(=O)NC(C(C)=O)C1=CC=CC=C1 | C15H21NO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-pentyl-4-phenyloxazole | CC1=C(N=C(O1)CCCCC)C1=CC=CC=C1 | C15H19NO
